US08580841B2
Step B: Preparation of 4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzoic Acid
To a solution of cyclopropylmethyl 4-(cyclopropylmethoxy)-3-(trifluoromethyl)benzoate (0.642 g, 2.043 mmol) in THF:MeOH (1:1, 10 mL) was added LiOH (1M, aq) (12.26 mmol). The reaction was stirred overnight, quenched with HCl (1M, aq) and extracted with EtOAc (twice). The combined extracts were dried over MgSO4 and concentrated to give the title compound as a white solid (0.502 g). LCMS m/z=261.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ ppm 0.39-0.46 (m, 2H), 0.62-0.71 (m, 2H), 1.23-1.38 (m, 1H), 4.03 (d, J=6.57 Hz, 2H), 7.02 (d, J=8.72 Hz, 1H), 8.23 (dd, J=8.72, 2.15 Hz, 1H), 8.34 (d, J=2.02 Hz, 1H).

reactant | cyclopropylmethyl 4-(cyclopropylmethoxy)-3-(trifluoromethyl)benzoate | 2.043 mmol, 0.642 g | C1(CC1)COC1=C(C=C(C(=O)OCC2CC2)C=C1)C(F)(F)F | C16H17F3O3
reactant | LiOH | 12.26 mmol, 1M | [Li+].[OH-]
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | 4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzoic Acid | 0.502 g | C1(CC1)COC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C12H11F3O3
